US08193189B2
1-(4-Bromo-2-methoxy-phenyl)-4-methyl-piperazine
A bromine solution (1.24 ml, 24.2 mmol) in 9.7 ml AcOH is added dropwise to a cooled solution (ca. 5° C.) of 1-(2-Methoxy-phenyl)-4-methyl-piperazine (as obtained in preparation 71, 5 g, 24.2 mmol) in AcOH (87 ml). After complete addition, the cooling bath is removed and reaction mixture allowed to warm up to RT. The dark violet solution is concentrated in vacuo, 20 ml de-ionized water is added and the pH is adjusted basic with a 20% NaOH solution. The mixture is extracted several times with CH2Cl2 and the combined organic layers are washed with brine, dried over Na2SO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by chromatography on a 120 g silica gel column on a Combiflash Companion™ (Isco Inc.) apparatus (gradient CH2Cl2/CH2Cl2:EtOH:NH3 90:9:1 from 1:0=>0:1) to afford the title compound as a dark brown oil, Rt=0.767 min (Acquity HPLC BEH C18, 2.1×50 mm, 1.7 micron, detection 215 nM, 0.1 min 2% CH3CN in H2O, 2% to 100% CH3CN in H2O in 1.5 min, 0.4 min 100% CH3CN+0.1% TFA, flow rate 1.0 ml/min); MS: 285 (M+1, 79Br)+.

reactant | bromine | 24.2 mmol, 1.24 ml | BrBr | Br2
reactant | 1-(2-Methoxy-phenyl)-4-methyl-piperazine | 24.2 mmol, 5 g | COC1=C(C=CC=C1)N1CCN(CC1)C | C12H18N2O
solvent | AcOH | 9.7 ml | CC(=O)O | C2H4O2
solvent | AcOH | 87 ml | CC(=O)O | C2H4O2
product | 1-(4-Bromo-2-methoxy-phenyl)-4-methyl-piperazine | BrC1=CC(=C(C=C1)N1CCN(CC1)C)OC | C12H17BrN2O
